US08110711B2
A glass flask equipped with a thermometer, a condenser and a dropping funnel was charged with 290 g (0.74 mole) of 65% purity sodium 1,1-difluoro-2-(pivaloyloxy)ethane-1-sulfinate, a catalytic amount of sodium tungstate (IV) dihydrate, 600 ml of water, followed by stirring. Then, 170 g (1.5 moles) of 30% oxygenate was added dropwise in an iced bath. After the termination of the dropping, stirring was conducted for 1 hour at room temperature. Then, the termination of the reaction was confirmed by 19F NMR. The reaction solution was concentrated and then rinsed with 500 ml of diisopropyl ether. Subsequently, filtration was conducted and a solid obtained therewith was dried, thereby obtaining 278 g of sodium 1,1-difluoro-2-(pivaloyloxy)ethanesulfonate in the form of a white solid (91% yield, 65% purity).

reactant | sodium 1,1-difluoro-2-(pivaloyloxy)ethane-1-sulfinate | FC(COC(C(C)(C)C)=O)(S(=O)[O-])F.[Na+]
reactant | water | 600 ml | O | H2O
catalyst | sodium tungstate | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | sodium 1,1-difluoro-2-(pivaloyloxy)ethanesulfonate | 278 g, 91% yield | FC(COC(C(C)(C)C)=O)(S(=O)(=O)[O-])F.[Na+] | InChI=1S/C7H12F2O5S.Na/c1-6(2,3)5(10)14-4-7(8,9)15(11,12)13;/h4H2,1-3H3,(H,11,12,13);/q;+1/p-1
